US08049013B2
Step 3: 4-Carboxymethyl-2-(4-chloro-phenyl)-thiazole-5-carboxylic acid
Dissolve 2-(4-chloro-phenyl)-4-ethoxycarbonylmethyl-thiazole-5-carboxylic acid ethyl ester (99 g, 280 mmol) in EtOH (500 mL) and add 2 M NaOH (700 mL, 1400 mmol). Heat the mixture to 50° C. for 1.5 h, then cool the solution in an ice bath, and treat with 2.5 M HCl (1 L) and stir for 2 h. Collect the precipitate by filtration, washing with 50% EtOH/water (500 mL), and then washing with water (1 L). Dry in a vacuum oven overnight at 45° C. to give 80.2 g (95%) of the title compound. 1H NMR (DMSO-d6, 500 MHz): δ 13.66 (br s, 1H), 12.55 (br s, 1H), 8.01 (d, 2H, J=8.6), 7.60 (d, 2H, J=8.9), 4.11 (s, 2H).

reactant | 2-(4-chloro-phenyl)-4-ethoxycarbonylmethyl-thiazole-5-carboxylic acid ethyl ester | 280 mmol, 99 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)CC(=O)OCC | C16H16ClNO4S
reactant | NaOH | 1400 mmol, 2 M, 700 mL | [OH-].[Na+]
reactant | HCl | 2.5 M, 1 L | Cl | ClH
solvent | EtOH | 500 mL | CCO | C2H6O
product | 4-Carboxymethyl-2-(4-chloro-phenyl)-thiazole-5-carboxylic acid | 80.2 g, 95% | C(=O)(O)CC=1N=C(SC1C(=O)O)C1=CC=C(C=C1)Cl | C12H8ClNO4S
